Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Facial droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ woman with PMH of remote insulinoma
s/p endoscopic resection (___), migraines, macular
degeneration, who presented initially for concern of right 
facial
droop and who is being admitted for hypoglycemia. 

Patient reports that she was in her usual state of health until
___. At that time, she had just arrived from ___ (where
she lives permanently) to visit her daughter in ___, where
she was noted by her son-in-law to have a mild right facial
droop. She initially watched her symptoms, but when she 
continued
to notice the droop into the morning of ___, she presented to
___ for further evaluation. There, she was noted to be
hypoglycemic, so she was given an amp of D50 with minimal
improvement, and so she was started on a D10 drip still with
intermittent hypoglycemia to ___. As a result, she was
transferred to ___ for further management.

In the ER, the patient's initial vitals were T 97.2F, HR 60, BP
178/110, RR 16, O2 sat 98% RA. Labs from ___ demonstrated
normal CBC, chemistry panel, and LFTs. FSBG ranged from ___ to
150s. CTA head from ___ was without evidence of filling
defect, but with possible hypodensity of the left anterior
temporal region. She was seen by neurology, who felt that the
patient's facial droop was likely related to recent Botox
injection, but also recommended MRI head to definitively rule 
out
ischemia or brain mass. The patient was initially on D10
infusion, but blood sugars remained in the 100s-120s, so her D10
was discontinued. She was admitted to Medicine service for
further management. 

On further interview, patient reports that she was diagnosed 
with
insulinoma in ___. At that time, she was found to be
hypoglycemic and reported went into hypoglycemic coma with blood
glucose <30. She underwent multiple cross-sectional imaging
studies that were unable to identify any culprit lesion. 
However,
she finally underwent endoscopic ultrasound at ___ with evidence of pancreatic lesion consistent with
insulinoma. She underwent endoscopic resection and the received
regular endoscopic ultrasounds for surveillance until about ___
years ago. None of the ultrasounds demonstrated recurrence. 

 
Past Medical History:
Remote insulinoma s/p endoscopic resection (___)
Migraines
Macular degeneration

 
Social History:
___
Family History:
Father - sudden death, unexplained
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 98.0F, BP 145/81, HR 55, RR 18, O2 sat 94% RA 
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. PERRL, EOMI. Sclera anicteric and without injection. 

ENT: MMM. Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
MSK: No spinous process tenderness. No CVA tenderness. No
clubbing, cyanosis, or edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Mild right-sided facial droop appreciated, otherwise
CN2-12 intact. ___ strength throughout. Normal sensation. Gait 
is
normal. Normal finger-to-nose testing bilaterally.
PSYCH: appropriate mood and affect

DISCHARGE EXAM
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. PERRL, EOMI. Sclera anicteric and without injection. 

ENT: MMM. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender.
MSK: No ___ edema
NEUROLOGIC: Mild right-sided facial droop appreciated, otherwise
CN2-12 intact. ___ strength throughout. Normal sensation. 
PSYCH: appropriate mood and affect

 
Pertinent Results:
___ 06:30AM BLOOD WBC-5.7 RBC-4.51 Hgb-13.9 Hct-42.0 MCV-93 
MCH-30.8 MCHC-33.1 RDW-13.2 RDWSD-44.9 Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-89 UreaN-27* Creat-0.6 Na-142 
K-4.6 Cl-107 HCO3-22 AnGap-13
___ 06:30AM BLOOD Calcium-9.7 Phos-3.2 Mg-2.1
___ 06:30AM BLOOD %HbA1c-5.2 eAG-103
___ 06:30AM BLOOD Cortsol-4.5

IMAGING: 

MRI HEAD W/ and W/O Contrast ___
FINDINGS:  
There is no intracranial mass, mass effect, or midline shift. 
Ventricles and 
sulci are age-appropriate.  There is a single subcortical 
T2/FLAIR 
hyperintense focus in the left frontal lobe.  This is entirely 
nonspecific and 
is not associated with restricted diffusion or enhancement.  
There is no 
region of restricted diffusion or abnormal susceptibility 
artifact. Major 
intravascular flow voids are preserved. 
  
Post contrast images demonstrate no abnormal parenchymal or 
meningeal 
enhancement. 
  
Visualized paranasal sinuses and mastoid air cells demonstrate 
no abnormal 
signal. 
  
IMPRESSION:  
  
Essentially normal MRI of the brain without mass lesion or 
findings to explain 
patient's right-sided facial droop. 

 
Brief Hospital Course:
PATIENT SUMMARY
================
Mrs. ___ is a ___ woman with PMH of remote insulinoma 
s/p endoscopic resection (___), migraines, macular 
degeneration, who presented initially for concern of right 
facial droop and who was admitted for asymptomatic low finger 
stick blood glucose (60___s). She was found to have a right sided 
facial droop and had an MRI Head which was normal. She has 
routine botox injections for migraines and had botox injected 
into her chin/cheek at her last visit which is the likely cause 
of the facial asymmetry. Her FSBG were in the ___ and improved 
on D10 insulin drip. She had no symptoms of hypoglycemia. 
Endocrine was consulted and did not recommend further workup as 
her FSBG remained in the 90's off the drip and she was 
asymptomatic so she did not meet criteria for true hypoglycemia.

TRANSITIONAL ISSUES
===================
[] Monitor for symptoms of hypoglycemia. She may have had 
incomplete resection of insulinoma.

ACUTE ISSUES:
=============
#Low FSBG:
Patient with FSBG to ___ at presentation to ___, was 
given dextrose amp and started on D10 gtt. Venous blood sample 
drawn at the same time revealed glucose in ___. Per patient, she 
did not have any of the typical symptoms of hypoglycemia, 
including palpitations, tremor, or diaphoresis. However, she 
also had poor hypoglycemia awareness when she was previously 
diagnosed with her insulinoma. Endocrine was consulted and did 
not recommend further workup as her FSBG remained in the ___ off 
the drip and she was asymptomatic so she did not meet criteria 
for true hypoglycemia. She would benefit from follow up with her 
outpatient endocrinologist and PCP. It is likely that her blood 
sugar runs in the 60-90 range normally. It is not concerning as 
she has not been symptomatic and does not meet criteria for 
Whipple's triad. If her insulinoma was not completely resected 
she would have presented with true hypoglycemia earlier.

#Facial droop:
Patient had mild right-sided facial droop starting ___. Neuro 
consulted in ER. Low concern for stroke given no traditional 
stroke risk factors, although the patient's estrogen supplement 
(Tibolone) is associated with stroke. CTA head also with some 
concern for possible left anterior temporal lobe mass. Patient 
also had recent botulinum toxin injection which she gets every 3 
months for treatment of migraines, and believes that she may 
have been injected around the region of the right side of her 
lip, likely contributing to facial weakness on that side. MRI 
brain was normal, ruling out stroke. Was started on ASA for 
primary prevention because of her history of fibromusclar 
dysplasia per neurology--this recommendation occurred after 
discharge as patient wanted to leave early and so she had to be 
called and informed of the recommendation verbally, which was 
done by telephone and she understood. 

CHRONIC ISSUES:
===============
#Migraines
Continued Acetaminophen as needed 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zomig (ZOLMitriptan) 2.5 mg nasal DAILY 
2. Sumatriptan Succinate 100 mg PO ONCE:PRN migraine 
3. TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
4. Estrogens Conjugated Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Estrogens Conjugated 2.5 mg PO DAILY  
2.  Sumatriptan Succinate 100 mg PO ONCE:PRN migraine  
3.  TraMADol 50 mg PO Q8H:PRN Pain - Moderate  
4.  Zomig (ZOLMitriptan) 2.5 mg nasal DAILY  
5.  Aspirin 81mg po DAILY

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
===================
History of Insulinoma

Secondary Diagnosis
====================
Facial Droop secondary to Botox

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for right sided facial drooping  
 
What was done for me while I was in the hospital?  
- You had an MRI of your head which was normal. It showed no 
signs of a stroke or mass. 
- You were given IV dextrose (sugar) because your blood sugar 
reading was low
- You were evaluated by the endocrinology team and they did not 
recommend further workup of your low blood sugar readings. They 
do NOT think this is recurrence of your insulinoma.

What should I do when I leave the hospital?  
Take all of your medications as prescribed
Go to your follow up appointments
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___